US04012413
In the manner given in Example 21, a solution of N-[2-[8-chloro-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepin-1-yl]propyl]phthalimide in ethanol is heated with hydrazine hydrate to give 1-(2-aminopropyl)-8-chloro-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine.

reactant | N-[2-[8-chloro-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepin-1-yl]propyl]phthalimide | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C(CN3C(C=2C(C3=O)=CC=CC2)=O)C)C2=C(C=CC=C2F)F)C1 | C27H18ClF2N5O2
reactant | hydrazine hydrate | O.NN
reactant | ethanol | C(C)O | C2H6O
product | 1-(2-aminopropyl)-8-chloro-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | NC(CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2F)F)C=C(C=C1)Cl)C | C19H16ClF2N5
